US07964643B2
Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-penten-1-yl-amide (ABD-176)
Using a method analogous to that described in Example 4, with biphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide and 5-bromopentene, reacted at 60° C. for 3 hours, the title compound was obtained as a white powder. δC (CDCl3, 62.9 MHz): 25.4, 28.0, 29.6, 30.9, 48.0, 48.3, 62.4, 115.4, 127.3, 127.7, 128.5, 129.1, 137.5, 138.4, 139.4 and 145.3. δH (CDCl3, 250 MHz): 1.56-1.67 (8H, m), 2.03 (2H, m), 3.16 (4H, m), 3.65 (2H, t, J 7.1), 4.94 (2H, m), 5.74 (1H, m), 7.43 (3H, m), 7.59 (2H, d, J 7.0), 7.69 (2H, d, J 8.2) and 7.84 (2H, d, J 8.2).

reactant | biphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C16H19NO3S
reactant | 5-bromopentene | BrCCCC=C | C5H9Br
product | Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-penten-1-yl-amide | OCCCCN(S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C=CCCC | C21H27NO3S
